US08445480B2
Step A. 3-Bromo-4-methoxy-5-nitrobenzonitrile
3-bromo-4-methoxybenzonitrile (5.22 g, 24.62 mmol) was added to rapidly stirring fuming nitric acid (10 ml, 201 mmol) at 0° C. The ice bath was removed and the reaction mixture was stirred for 2 h at room temperature. The reaction mixture was diluted with ethyl acetate and water, and then the organic layer was washed with water and brine, dried (sodium sulfate), filtered, and concentrated in vacuo to afford the title compound, which was carried on without further purification.

reactant | 3-bromo-4-methoxybenzonitrile | 24.62 mmol, 5.22 g | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
reactant | nitric acid | 201 mmol, 10 ml | [N+](=O)(O)[O-] | HNO3
product | 3-Bromo-4-methoxy-5-nitrobenzonitrile | BrC=1C=C(C#N)C=C(C1OC)[N+](=O)[O-] | C8H5BrN2O3
